US04985582
2-i-Butyl-2-hydroxymethyl-propan-1,3-dithiol was prepared from 1-benzyloxy-2,2-di-benzylthiomethyl-4-methyl-pentane in a manner analogous to that described for the sysnthesis of 2,2-di-hydroxymethyl-3,3-dimethyl-butan-1-thiol.

reactant | 1-benzyloxy-2,2-di-benzylthiomethyl-4-methyl-pentane | C(C1=CC=CC=C1)OCC(CC(C)C)(CSCC1=CC=CC=C1)CSCC1=CC=CC=C1 | C29H36OS2
reactant | 2,2-di-hydroxymethyl-3,3-dimethyl-butan-1-thiol | OCC(CS)(C(C)(C)C)CO | C8H18O2S
product | 2-i-Butyl-2-hydroxymethyl-propan-1,3-dithiol | C(C(C)C)C(CS)(CS)CO | C8H18OS2
